US09402833B2
TFA (0.09 mL, 1.18 mmol) was added to a solution of tert-butyl 5-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate (0.04 g, 0.117 mmol) in DCM (5 mL) at 0° C. and stirring was continued at 25° C. for 3 h. Reaction mixture was concentrated under reduced pressure to afford the crude, which was diluted with ethyl acetate, washed with saturated NaHCO3 solution, dried over anhydrous sodium sulphate to afford 5-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)-3,4-dihydro-2H-pyrrole (Int-55). MS (ESI) m/z 222 (M+H)

reactant | TFA | 1.18 mmol, 0.09 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 5-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 0.117 mmol, 0.04 g | FC=1C=C(C2=C(OCCO2)C1)C1=CCCN1C(=O)OC(C)(C)C | C17H20FNO4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)-3,4-dihydro-2H-pyrrole | FC=1C=C(C2=C(OCCO2)C1)C=1CCCN1 | C12H12FNO2
